US06337196B1
500 μl of 3-methyl-2-pentanone (4 mmol) were dissolved in 15 ml of diisopropyl ether with stirring, the mixture was cooled to 0-5° C. and an aqueous solution of 520 mg. of potassium cyanide in 20 ml of 0.5 M citric acid was added. After addition of 2 ml of enzyme solution (1000 IU/ml), the reaction vessel was sealed pressure-tight and the mixture was stirred at 0-5° C. for 5 hours. The mixture was then diluted with 30 ml of diisopropyl ether and the reaction mixture was extracted. After separation of the organic phase, the aqueous phase was extracted a second time by shaking with 30 ml of diisopropyl ether. The aqueous phase was discarded, the combined organic phases were dried over anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure. After column chromatography, 193 mg of (S)-2-hydroxy-2,4-dimethylpentanenitrile (38%) were obtained.

reactant | 3-methyl-2-pentanone | 4 mmol, 500 μl | CC(C(C)=O)CC | C6H12O
reactant | potassium cyanide | [C-]#N.[K+]
reactant | diisopropyl ether | 15 ml | C(C)(C)OC(C)C | C6H14O
reactant | diisopropyl ether | 30 ml | C(C)(C)OC(C)C | C6H14O
solvent | citric acid | 0.5 M, 20 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (S)-2-hydroxy-2,4-dimethylpentanenitrile | 193 mg, 38% | O[C@](C#N)(CC(C)C)C | C7H13NO
